US08729095B2
To an 80% aqueous ethanol suspension (150 ml) of 5-chloro-3-nitropyridin-2-ol (15.0 g) and calcium chloride (9.54 g) was added iron powder (24.0 g), followed by stirring at room temperature for 30 minutes, and further under heating at reflux for 1 hour. After the temperature was brought back to room temperature, the reaction suspension was filtered through Celite. Water was added to the filtrate, and extracted 8 times with a methanol-dichloromethane (1:10) mixed solvent. The collected organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 3-amino-5-chloropyridin-2-ol (8.86 g).

reactant | 5-chloro-3-nitropyridin-2-ol | 15.0 g | ClC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3ClN2O3
reactant | calcium chloride | 9.54 g | [Cl-].[Ca+2].[Cl-]
catalyst | iron | 24.0 g | [Fe] | Fe
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-amino-5-chloropyridin-2-ol | 8.86 g | NC=1C(=NC=C(C1)Cl)O | C5H5ClN2O
